US06875765B2
To an ethanol (400 mL) solution of 3-naphthalen-1-yl-oxirane-2-carboxylic acid ethyl ester (21.26 g, 87.8 mmol) was added 5% palladium hydroxide on carbon (1.0 g). The reaction was then pressurized to 50 psi with hydrogen for 2 h. The reaction was then filtered through a celite pad. The cake was washed with ethanol (100 mL). The reaction was then concentrated under reduced pressure to yield 2-hydroxy-3-naphthalen-1-yl-propionic acid ethyl ester as an oil. 1H NMR(300 MHz, DMSO) 8.05 (d, 1H), 7.89(d, 1H), 7.79(d, 1H), 7.34 (m, 4H), 5.58 (d, 1H), 4.32 (dd, 1H), 4.04 (q, 2H), 3.44 (dd, 1H), 3.24 (dd, 1H), 1.05 (t, 3H).

reactant | 3-naphthalen-1-yl-oxirane-2-carboxylic acid ethyl ester | 87.8 mmol, 21.26 g | C(C)OC(=O)C1OC1C1=CC=CC2=CC=CC=C12 | C15H14O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 1.0 g | [OH-].[OH-].[Pd+2]
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 2-hydroxy-3-naphthalen-1-yl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=CC2=CC=CC=C12)O)=O | C15H16O3
